### PR TITLE
[Merged by Bors] - feat (Lattice/Covolume): Add results linking point counting in lattices and covolume

### PR DESCRIPTION
**Pull request by xroblot**
---

- [x] depends on: #12405 
- [x] depends on: #16822 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/ZLattice/Covolume.lean [hunk 1]
```diff
@@ -23,6 +24,25 @@ choice of the fundamental domain of `L`.
...
+
+* `Zlattice.covolume.tendsto_card_le_div`: Let `X` be a cone in `ι → ℝ` and let `F : (ι → ℝ) → ℝ`
+be a function such that `F (c • x) = c ^ card ι * F x`. Then the number of points `x ∈ X` such that
+`F x ≤ c` divided by `c` tends to `volume {x ∈ X | F x ≤ 1} / covolume L` when `c : ℝ` tends to
+infinity. See also `Zlattice.covolume.tendsto_card_le_div'` for a version for
+`InnerProductSpace ℝ E` and `Zlattice.covolume.tendsto_card_le_div''` for the general version.
+
+## Naming convention
+
+Some results are true in the pi case `E` where is `ι → ℝ` and in the case `E` is an
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/ZLattice/Covolume.lean:40]: I don't understand the "`E` where is `ι → ℝ`" part. Can you please check it?

File: Mathlib/Algebra/Module/ZLattice/Covolume.lean [hunk 2]
```diff
@@ -96,6 +116,217 @@ theorem covolume_eq_det {ι : Type*} [Fintype ι] [DecidableEq ι] (L : Submodul
   ext1
   exact b.ofZLatticeBasis_apply ℝ L _
 
-end Real
+theorem covolume_eq_det_inv {ι : Type*} [Fintype ι] [DecidableEq ι] (L : Submodule ℤ (ι → ℝ))
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/ZLattice/Covolume.lean:119]: Can you use `Finite` instead of `Fintype`?

File: Mathlib/LinearAlgebra/Determinant.lean [hunk 3]
```diff
@@ -548,6 +548,15 @@ theorem Basis.det_comp_basis [Module A M'] (b : Basis ι A M) (b' : Basis ι A M
   congr 1; ext i j
   rw [Basis.toMatrix_apply, LinearMap.toMatrix_apply, Function.comp_apply]
 
+theorem Basis.det_basis (b : Basis ι A M) (b' : Basis ι A M) :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Determinant.lean:551]: If you swap the LHS and RHS this can be `simp`.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/Module/ZLattice/Covolume.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/ZLattice/Covolume.lean:119]: Unfortunately, the statement does not type check with `Finite` instead of `Fintype`
